US08541573B2
Step-3: N-((1-Benzyl-4-(4-cyclopropylpiperazin-1-yl)piperidin-4-yl)methyl)-2,2,2-trifluoroacetamide
To a solution of (1-benzyl-4-(4-cyclopropylpiperazin-1-yl)piperidin-4-yl)-methanamine (11.29 mmol, 1.0 equiv.) and trieylamine (5.0 equiv.) in dichloromethane (56 ml) was added trifluoroacetic anhydride at 0° C. and the resulting reaction mixture was stirred at room temperature for 2 h. The mixture was diluted with dichloromethane, successively washed with water and brine, dried over sodium sulfate and the solvent evaporated under reduced pressure to yield the crude product which was purified by silica gel column chromatography. Yield: 50%.

reactant | (1-benzyl-4-(4-cyclopropylpiperazin-1-yl)piperidin-4-yl)-methanamine | 11.29 mmol, 1.0 equiv. | C(C1=CC=CC=C1)N1CCC(CC1)(N1CCN(CC1)C1CC1)CN | C20H32N4
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 56 ml | ClCCl | CH2Cl2
product | N-((1-Benzyl-4-(4-cyclopropylpiperazin-1-yl)piperidin-4-yl)methyl)-2,2,2-trifluoroacetamide | Yield: 50% | C(C1=CC=CC=C1)N1CCC(CC1)(N1CCN(CC1)C1CC1)CNC(C(F)(F)F)=O | C22H31F3N4O
